US09227978B2
((S)-tert-Butyl 3-(4-(2-((4-chloro-5-cyclopropyl-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate
A mixture of (S)-tert-butyl 3-(4-(2-((5-bromo-4-chloro-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate (700 mg, 1.32 mmol), cyclopropylboronic acid (114 mg, 1.32 mmol), Pd(OAc)2 (15 mg, 0.066 mmol), tricyclohexylphosphine (37 mg, 0.132 mmol), K3PO4.3H2O (974 mg, 4.62 mmol) in DMF (10 mL) and H2O (0.5 mL) was stirred under argon at 80° C. for 16 h. The mixture was allowed to cool to RT, and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (methanol/dichloroethane=1:100) to afford the desired product (400 mg, 62%). ESI-MS m/z: 493.2[M+H]+.

reactant | (S)-tert-butyl 3-(4-(2-((5-bromo-4-chloro-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 1.32 mmol, 700 mg | BrC=1C(=CC(=C(C1)N[C@H](C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC)Cl | C22H32BrClN4O4
reactant | cyclopropylboronic acid | 1.32 mmol, 114 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.132 mmol, 37 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.5 mL | O | H2O
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-tert-Butyl 3-(4-(2-((4-chloro-5-cyclopropyl-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 400 mg, 62% | ClC1=CC(=C(C=C1C1CC1)N[C@H](C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC | C25H37ClN4O4
